US07842696B2
Na2CO3 (146 mg, 1.37 mmol) was added to a stirred solution of 4-iodo-1-trityl-1H-pyrazole (300 mg, 0.69 mmol) in toluene: H2O (5:1, 11.5 mL). Pd (PPh3)4 (80 mg, 0.07 mmol) and phenylboronic acid (126 mg, 1.03 mmol) were then added and the reaction mixture was heated to reflux for 2 hrs. The reaction mixture was then diluted with water and the product was extracted with ethyl acetate. The organic layer was washed with saturated brine solution, dried over sodium sulphate and concentrated to get the residue. The residue obtained was purified by column chromatography (using silica gel of 60-120 mesh and 5% EtOAc in Hexane as eluent) afford 120 mg (48.38% yield) of 4-phenyl-1-trityl-1H-pyrazole. 1H NMR (CDCl3): δ 7.96-7.94 (s, 1H), 7.64-7.6 (s, 1H), 7.46-7.4 (d, 2H), 7.36-7.0 (m, 1H), 7.24-7.16 (m, 7H).

reactant | Na2CO3 | 1.37 mmol, 146 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-iodo-1-trityl-1H-pyrazole | 0.69 mmol, 300 mg | IC=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | phenylboronic acid | 1.03 mmol, 126 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene H2O | 11.5 mL | C1(=CC=CC=C1)C.O
solvent | water | O | H2O
catalyst | Pd (PPh3)4 | 0.07 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-phenyl-1-trityl-1H-pyrazole | 120 mg, 48.38% yield | C1(=CC=CC=C1)C=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H22N2
